US08377923B2
Methyl 3-cyclopropyl-3-oxopropanoate (2.0 g) and magnesium perchlorate (940 mg) were dissolved in ethyl acetate (20 ml), followed by stirring at room temperature for 5 minutes, and N-bromosuccinimide (2.76 g) was added thereto, followed by stirring at room temperature for 4 hours. Water was added thereto, followed by extraction with ethyl acetate, the organic layer was washed with water and saturated brine and was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain, as a colorless oily product, methyl 2-bromo-3-cyclopropyl-3-oxopropanoate (3.32 g).

reactant | Methyl 3-cyclopropyl-3-oxopropanoate | 2.0 g | C1(CC1)C(CC(=O)OC)=O | C7H10O3
reactant | magnesium perchlorate | 940 mg | Cl(=O)(=O)(=O)[O-].[Mg+2].Cl(=O)(=O)(=O)[O-]
reactant | N-bromosuccinimide | 2.76 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | methyl 2-bromo-3-cyclopropyl-3-oxopropanoate | 3.32 g | BrC(C(=O)OC)C(=O)C1CC1 | C7H9BrO3
